US04474964
To 60 ml of absolute methyl alcohol were added 10 g of 4-phenoxy-2-butyl tosylate and 5.93 g of dimethylamine. The mixture was reacted in a sealed tube for one hour at 125° C. After the reaction solution was condensed under reduced pressure, 100 ml of diethyl ether was added into the solution and the solution was separated with 20% aqueous sodium hydroxide solution. The ether layer was dried with anhydrous sodium sulfate, and then the ether was removed under reduced pressure therefrom. The residue thus obtained was subjected to an alumina-column chromatography using chloroform as the solvent to give 3.98 g of 1-methyl-3-phenoxypropyldimethylamine in a yield of 66%.

reactant | methyl alcohol | 60 ml | CO | CH4O
reactant | 4-phenoxy-2-butyl tosylate | 10 g | S(=O)(=O)(OC(C)CCOC1=CC=CC=C1)C1=CC=C(C)C=C1 | C17H20O4S
reactant | dimethylamine | 5.93 g | CNC | C2H7N
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-3-phenoxypropyldimethylamine | 3.98 g, yield of 66% | CC(CCOC1=CC=CC=C1)N(C)C | C12H19NO
